US04556672
Reaction of 36.2 g of 6-chloroisatin with hydrazine hydrate followed by sodium ethoxide in ethanol, substantially according to C above, afforded 14.2 g of 6-chloro-2-oxindole, m.p. 196°-198° C.

reactant | 6-chloroisatin | 36.2 g | ClC1=CC=C2C(C(NC2=C1)=O)=O | C8H4ClNO2
reactant | hydrazine hydrate | O.NN
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 6-chloro-2-oxindole | 14.2 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
